US06262287B1
Pent-4-enoic Acid 3,7-dimethyl-octa-2,6-dienyl Ester
According to the same procedure, undec-10-enoic acid 3,7-dimethyl-oct-2,6-dienyl ester was prepared from geraniol and 10-undecenoic acid.

reactant | undec-10-enoic acid 3,7-dimethyl-oct-2,6-dienyl ester | CC(=CCOC(CCCCCCCCC=C)=O)CCC=C(C)C | C21H36O2
reactant | geraniol | CC(C)=CCC\C(\C)=C\CO | C10H18O
reactant | 10-undecenoic acid | C(CCCCCCCCC=C)(=O)O | C11H20O2
product | Pent-4-enoic Acid 3,7-dimethyl-octa-2,6-dienyl Ester | CC(=CCOC(CCC=C)=O)CCC=C(C)C | C15H24O2
